US06448290B1
Methyl 4-[2-(2-Nitro-5-chlorophenyl)-(EZ)-vinyl]benzoate
To a solution of 4-methoxycarbonylphenylmethyltriphenylphosphine bromide (4.83 g) in THF (20 ml), potassium t-butoxide (600 mg) was added. The mixture was stirred for 1 hour at room temperature. To the reaction solution, 2-nitro-5-chlorobenzaldehyde (742 mg) was added at 0° C. The mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into diluted HCl. The mixture was extracted with hexane-AcOEt. The organic layer was washed, dried over and concentrated under the reduced pressure. The residue was purified on silica gel column chromatography (hexane-AcOEt) and recrystallization from the mixture solvent of hexane-AcOEt to give the title compound (680 mg) having the following physical data.

reactant | 4-methoxycarbonylphenylmethyltriphenylphosphine bromide | 4.83 g | [Br-].COC(=O)C1=CC=C(C=C1)CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 600 mg | CC(C)([O-])C.[K+]
reactant | 2-nitro-5-chlorobenzaldehyde | 742 mg | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)Cl | C7H4ClNO3
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 4-[2-(2-Nitro-5-chlorophenyl)-(EZ)-vinyl]benzoate | 680 mg | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)C=CC1=CC=C(C(=O)OC)C=C1 | C16H12ClNO4
